US05869501
7-Formyl-2-naphthalenecarbonitrile obtained in Reference Example 1 (849 mg) and 1,370 mg of 4-[(1-t-butoxycarbonyl-4-piperidyl)oxy]aniline were dissolved in 10 ml of dichloromethane and 2.7 ml of acetic acid, 1,290 mg of sodium triacetoxyborohydride was added to the solution, and the mixture was stirred at room temperature for 45 minutes. The reaction solution was washed with 2M potassium carbonate, water and 10% citric acid aqueous solution in that order, dried over sodium sulfate, and then evaporated. By recrystallizing the resulting residue from methanol, 1,698 mg of 7-[[4-[(1-t-butoxycarbonyl-4-piperidyl)oxy]anilino]methyl]-2-naphthalenecarbonitrile was obtained.

reactant | 7-Formyl-2-naphthalenecarbonitrile | C(=O)C1=CC=C2C=CC(=CC2=C1)C#N | C12H7NO
reactant | 4-[(1-t-butoxycarbonyl-4-piperidyl)oxy]aniline | 1,370 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=CC=C(N)C=C1 | C16H24N2O3
reactant | sodium triacetoxyborohydride | 1,290 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | acetic acid | 2.7 ml | C(C)(=O)O | C2H4O2
product | 7-[[4-[(1-t-butoxycarbonyl-4-piperidyl)oxy]anilino]methyl]-2-naphthalenecarbonitrile | 1,698 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=CC=C(NCC2=CC=C3C=CC(=CC3=C2)C#N)C=C1 | C28H31N3O3
